### PR TITLE
[Merged by Bors] - feat: presented monoids

### PR DESCRIPTION
**Pull request by hannahfechtner**
Define presented monoids and their universal property. This requires some additions to free monoids, and GroupTheory/Congruence

---

- [ ] depends on: #17180

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/PresentedMonoid/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,248 @@
...
+/-- forward direction of the bijection for the isomorphism -/
+private def iso_function : PresentedMonoid rels → PresentedMonoid (rels_iso e rels) :=
+  Quot.map ((FreeMonoid.congr_iso e).toFun) (iso_helper e rels)
+
+/-- reverse direction of the bijection for the isomorphism -/
+private def iso_function_inv : PresentedMonoid (rels_iso e rels) → PresentedMonoid rels :=
+  Quot.map ((FreeMonoid.congr_iso e).invFun) (iso_helper_inv e rels)
+
+/-- Presented groups of isomorphic types are isomorphic. -/
+def equivPresentedMonoid : PresentedMonoid rels ≃* PresentedMonoid (rels_iso e rels) := by
```
Comment (erdOne) [inline Mathlib/Algebra/PresentedMonoid/Basic.lean:223]: This is a general result that If `e : M →* N` is surjective then `(c.comap e).Quotient ≃* c.Quotient` with `c : Con N`.

File: Mathlib/Algebra/PresentedMonoid/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,248 @@
...
+-/
+
+variable {α : Type*}
+
+/-- the steps-to closure of a relation -/
+inductive PresentedMonoid.StepsTo {β : Type*} [Mul β] (R : β → β → Prop) : β → β → Prop
+  | basic : ∀ {x y}, R x y → StepsTo R x y
+  | left  : ∀ {x y z}, StepsTo R x y → StepsTo R (z * x) (z * y)
+  | right : ∀ {x y z}, StepsTo R x y → StepsTo R (x * z) (y * z)
+
```
Comment (erdOne) [inline Mathlib/Algebra/PresentedMonoid/Basic.lean:36]: Can you add 
```
lemma eqvGen_stepsto {β : Type*} [Monoid β] (r : β → β → Prop) :
    EqvGen (PresentedMonoid.StepsTo r) = ConGen.Rel r := by
``` 
`PresentedMonoid.StepsTo` should have a different name (maybe `MulGen`?) and be moved to `GroupTheory/Congruence`

File: Mathlib/Algebra/PresentedMonoid/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,248 @@
...
+/-- Given a set of relations, `rels`, over a type `α`, `PresentedMonoid` constructs the monoid with
+generators `x : α` and relations `rels` as a quot of `FreeMonoid α`. -/
+def PresentedMonoid (rel : FreeMonoid α → FreeMonoid α → Prop) :=
+  Quot (PresentedMonoid.StepsTo rel)
```
Comment (erdOne) [inline Mathlib/Algebra/PresentedMonoid/Basic.lean:40]: I still think `abbrev PresentedMonoid := (conGen rel).Quotient` is a better definition. It gives you the monoid structure and the surjection `FreeMonoid α -> PresentedMonoid rel` and the universal property for free.

**Review by erdOne — COMMENTED** [review]
Using existing material to simplify your proof is only half the story. Sometimes it is the stuff you are adding that is improving the existing material (for example `(c.comap e).Quotient ≃* c.Quotient`). Also people might want to use results from both sides and it is useful to have a common backbone that is being built upon.

File: Mathlib/Algebra/PresentedMonoid/Basic.lean (hunk 1 above)
Comment (hannahfechtner) [reply Mathlib/Algebra/PresentedMonoid/Basic.lean]: implemented in the latest PR!

File: Mathlib/Algebra/PresentedMonoid/Basic.lean (hunk 2 above)
Comment (hannahfechtner) [reply Mathlib/Algebra/PresentedMonoid/Basic.lean]: now it's implemented with Con

File: Mathlib/Algebra/PresentedMonoid/Basic.lean (hunk 3 above)
Comment (hannahfechtner) [reply Mathlib/Algebra/PresentedMonoid/Basic.lean]: done!

File: Mathlib/Algebra/FreeMonoid/Basic.lean [hunk 4]
```diff
@@ -316,11 +424,26 @@ def map (f : α → β) : FreeMonoid α →* FreeMonoid β where
 #align free_monoid.map FreeMonoid.map
 #align free_add_monoid.map FreeAddMonoid.map
 
+-- @[to_additive (attr := simp)]
+-- theorem map_one : map f 1 = 1 := rfl
+
```
Comment (rosborn) [inline Mathlib/Algebra/FreeMonoid/Basic.lean:429]: I'm assuming this should be deleted?

File: Mathlib/Algebra/FreeMonoid/Basic.lean [hunk 5]
```diff
@@ -346,11 +469,82 @@ theorem map_id : map (@id α) = MonoidHom.id (FreeMonoid α) := hom_eq fun _ ↦
...
 
+theorem map_surjective (f : α → β) : Function.Surjective f → Function.Surjective (map f) := by
+  intro fs d
+  induction' d using FreeMonoid.inductionOn' with head tail ih
+  · use 1
+    rfl
+  specialize fs head
+  rcases fs with ⟨thingie, rfl⟩
+  rcases ih with ⟨another, rfl⟩
+  use FreeMonoid.of thingie * another
```
Comment (rosborn) [inline Mathlib/Algebra/FreeMonoid/Basic.lean:480]:
```suggestion
  rcases fs with ⟨a, rfl⟩
  rcases ih with ⟨b, rfl⟩
  use FreeMonoid.of a * b
```

File: Mathlib/Algebra/FreeMonoid/Basic.lean [hunk 6]
```diff
@@ -346,11 +469,82 @@ theorem map_id : map (@id α) = MonoidHom.id (FreeMonoid α) := hom_eq fun _ ↦
...
+
+/-! ### foldr -/
+
+/--
+Applies function `f` to all of the elements of the free monoid, from right to left.
+* `foldr f init (of a * of b * of c) = f a <| f b <| f c <| init
+-/
+@[to_additive (attr := specialize) "Applies function `f` to all of the elements of the free monoid,
+from right to left. `foldr f init (of a + of b + of c) = f a <| f b <| f c <| init"]
+def foldr (f : α → α → α) (init : α) (a : FreeMonoid α) := List.foldr f init a
```
Comment (rosborn) [inline Mathlib/Algebra/FreeMonoid/Basic.lean:504]: I'm curious what the use case of this would be.

Comment (hannahfechtner) [reply Mathlib/Algebra/FreeMonoid/Basic.lean:504]: It might be overkill to use foldr; perhaps there's a more specific way. In a later file, I'll need to embed into a group. So I want to multiply together all the symbols in the free monoid element, using the group's multiplication

File: Mathlib/Algebra/FreeMonoid/Basic.lean (hunk 4 above)
Comment (hannahfechtner) [reply Mathlib/Algebra/FreeMonoid/Basic.lean]: oh oops! that and the one below it, too

File: Mathlib/Algebra/FreeMonoid/Basic.lean (hunk 6 above)
Comment (rosborn) [reply Mathlib/Algebra/FreeMonoid/Basic.lean:499]: Sorry for the late response, but that is just [FreeMonoid.lift](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/FreeMonoid/Basic.html#FreeMonoid.lift). The reason, I am suspicious of `foldr` is that I don't think we should just duplicate the `List` API in `FreeMonoid`.

Comment (hannahfechtner) [reply Mathlib/Algebra/FreeMonoid/Basic.lean:499]: oh, I see! that makes sense, I'll remove it

File: Mathlib/GroupTheory/Congruence/Basic.lean [hunk 7]
```diff
@@ -1104,6 +1155,15 @@ noncomputable def quotientKerEquivOfSurjective (f : M →* P) (hf : Surjective f
 #align con.quotient_ker_equiv_of_surjective Con.quotientKerEquivOfSurjective
 #align add_con.quotient_ker_equiv_of_surjective AddCon.quotientKerEquivOfSurjective
 
+/-- If e : M →* N is surjective then (c.comap e).Quotient ≃* c.Quotient
+with c : Con N -/
+@[to_additive "If e : M →* N is surjective then (c.comap e).Quotient ≃* c.Quotient
+with c : AddCon N"]
+noncomputable def comapQuotientEquivOfSurj(c : Con M) (f : N →* M) (hf : Function.Surjective f) :
```
Comment (erdOne) [inline Mathlib/GroupTheory/Congruence/Basic.lean:1162]:
```suggestion
noncomputable def comapQuotientEquivOfSurj (c : Con M) (f : N →* M) (hf : Function.Surjective f) :
```

File: Mathlib/Control/Fold.lean [hunk 8]
```diff
@@ -335,10 +335,10 @@ theorem toList_spec (xs : t α) : toList xs = FreeMonoid.toList (foldMap FreeMon
...
     calc
       FreeMonoid.toList (foldMap FreeMonoid.of xs) =
-          FreeMonoid.toList (foldMap FreeMonoid.of xs).reverse.reverse := by
-          simp only [List.reverse_reverse]
-      _ = FreeMonoid.toList (List.foldr cons [] (foldMap FreeMonoid.of xs).reverse).reverse := by
-          simp only [List.foldr_eta]
+          (foldMap FreeMonoid.of xs).toList.reverse.reverse :=
+          by simp only [List.reverse_reverse]
+      _ = (List.foldr cons [] (foldMap FreeMonoid.of xs).toList.reverse).reverse :=
+          by simp only [List.foldr_eta]
```
[the remark this answers is not in the document]
Comment (erdOne) [reply Mathlib/Control/Fold.lean:341]: What happened here?

File: Mathlib/Algebra/FreeMonoid/Basic.lean (hunk 6 above)
Comment (erdOne) [reply Mathlib/Algebra/FreeMonoid/Basic.lean:499]: What's the status of this?

**Review by erdOne — COMMENTED** [review]
LGTM modulo minor comments

**Comment by erdOne** [comment]
Also please merge master in case of merge conflicts. Thanks!

File: Mathlib/Algebra/FreeMonoid/Basic.lean (hunk 6 above)
Comment (hannahfechtner) [reply Mathlib/Algebra/FreeMonoid/Basic.lean]: it's deleted as of the last commit

File: Mathlib/Algebra/FreeMonoid/Basic.lean
Comment (YaelDillies) [inline Mathlib/Algebra/FreeMonoid/Basic.lean:1]: Could this be a separate PR?

File: Mathlib/GroupTheory/Congruence/Basic.lean
Comment (YaelDillies) [inline Mathlib/GroupTheory/Congruence/Basic.lean:1]: And this too?

File: Mathlib/GroupTheory/Congruence/Basic.lean [hunk 9]
```diff
@@ -561,6 +561,57 @@ theorem comap_rel {f : M → N} (H : ∀ x y, f (x * y) = f x * f y) {c : Con N}
     comap f H c x y ↔ c (f x) (f y) :=
   Iff.rfl
 
+@[to_additive]
+theorem comap_conGen_of_Bijective {M N : Type*} [Mul M] [Mul N] (f : M → N)
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/Congruence/Basic.lean:565]:
```suggestion
theorem comap_conGen_of_bijective {M N : Type*} [Mul M] [Mul N] (f : M → N)
```

File: Mathlib/Algebra/PresentedMonoid/Basic.lean
Comment (YaelDillies) [inline Mathlib/Algebra/PresentedMonoid/Basic.lean:1]: This could become the main new thing of this PR

**Comment by YaelDillies** [comment]
I think people who are not interested in presented monoids might be interested in the parts I'm asking you to split off.

File: Mathlib/Algebra/FreeMonoid/Basic.lean
Comment (hannahfechtner) [reply Mathlib/Algebra/FreeMonoid/Basic.lean:1]: it is now PR#17180

File: Mathlib/Algebra/PresentedMonoid/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,147 @@
...
+section ToMonoid
+variable {α M : Type*} [Monoid M] (f : α → M)
+variable {rels : FreeMonoid α → FreeMonoid α → Prop}
+variable (h : ∀ a b : FreeMonoid α, rels a b →  FreeMonoid.lift f a = FreeMonoid.lift f b)
+
+/-- The extension of a map `f : α → M` that satisfies the given relations to a monoid homomorphism
+from `PresentedMonoid rels → M`. -/
+@[to_additive "The extension of a map `f : α → M` that satisfies the given relations to an
+additive-monoid homomorphism from `PresentedAddMonoid rels → M`"]
+def toMonoid : MonoidHom (PresentedMonoid rels) M :=
```
Comment (erdOne) [inline Mathlib/Algebra/PresentedMonoid/Basic.lean:120]:
```suggestion
def toMonoid : PresentedMonoid rels →* M :=
```
I would call this PresentedMonoid.lift instead.

File: Mathlib/Algebra/PresentedMonoid/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,147 @@
...
+  · exact Submonoid.one_mem _
+  · rename_i x
+    exact subset_closure (Exists.intro x rfl)
+  rename_i x y hx hy
+  exact Submonoid.mul_mem _ hx hy
+
+section ToMonoid
+variable {α M : Type*} [Monoid M] (f : α → M)
+variable {rels : FreeMonoid α → FreeMonoid α → Prop}
+variable (h : ∀ a b : FreeMonoid α, rels a b →  FreeMonoid.lift f a = FreeMonoid.lift f b)
```
Comment (erdOne) [inline Mathlib/Algebra/PresentedMonoid/Basic.lean:114]:
```suggestion
variable (h : ∀ a b : FreeMonoid α, rels a b → FreeMonoid.lift f a = FreeMonoid.lift f b)
```

File: Mathlib/Algebra/PresentedMonoid/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,147 @@
...
+@[to_additive (attr := simp)]
+theorem toMonoid.of {x : α} : (PresentedMonoid.toMonoid f h) (PresentedMonoid.of rels x) =
+    f x := rfl
+
+end ToMonoid
+
+@[to_additive (attr := ext)]
+theorem ext {M : Type*} [Monoid M] (rels : FreeMonoid α → FreeMonoid α → Prop)
+    {φ ψ : PresentedMonoid rels →* M} (hx : ∀ (x : α), φ (.of rels x) = ψ (.of rels x)) :
+    φ = ψ := by
```
Comment (erdOne) [inline Mathlib/Algebra/PresentedMonoid/Basic.lean:137]: This is easier proved via [MonoidHom.eq_of_eqOn_denseM](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Submonoid/Basic.html#MonoidHom.eq_of_eqOn_denseM)

File: Mathlib/Algebra/PresentedMonoid/Basic.lean [hunk 13]
```diff
@@ -0,0 +1,147 @@
...
+def toMonoid : MonoidHom (PresentedMonoid rels) M :=
+  Con.lift _ (FreeMonoid.lift f) (Con.conGen_le h)
+
+@[to_additive]
+theorem toMonoid.unique (g : MonoidHom (conGen rels).Quotient M)
+    (hg : ∀ a : α, g (of rels a) = f a) : g = toMonoid f h :=
+  Con.lift_unique (proof_1 f h) g (FreeMonoid.hom_eq fun x ↦ let_fun this := hg x; this)
+
+@[to_additive (attr := simp)]
+theorem toMonoid.of {x : α} : (PresentedMonoid.toMonoid f h) (PresentedMonoid.of rels x) =
```
Comment (erdOne) [inline Mathlib/Algebra/PresentedMonoid/Basic.lean:129]:
```suggestion
theorem toMonoid.of {x : α} : toMonoid f h (of rels x) =
```

File: Mathlib/Algebra/PresentedMonoid/Basic.lean [hunk 14]
```diff
@@ -0,0 +1,147 @@
...
+monoid with the same generators and the given relations `rels`"]
+def mk (rels : FreeMonoid α → FreeMonoid α → Prop) (a : FreeMonoid α) : PresentedMonoid rels :=
+  Quotient.mk (conGen rels).toSetoid a
+
+/-- `of` is the canonical map from `α` to a presented monoid with generators `x : α`. The term `x`
+is mapped to the equivalence class of the image of `x` in `FreeMonoid α`. -/
+@[to_additive "`of` is the canonical map from `α` to a presented additive monoid with generators
+`x : α`. The term `x` is mapped to the equivalence class of the image of `x` in `FreeAddMonoid α`"]
+def of (rels : FreeMonoid α → FreeMonoid α → Prop) (x : α) : PresentedMonoid rels :=
+  Quotient.mk (conGen rels).toSetoid (FreeMonoid.of x)
```
Comment (erdOne) [inline Mathlib/Algebra/PresentedMonoid/Basic.lean:56]:
```suggestion
  mk rels (.of x)
```

File: Mathlib/Algebra/PresentedMonoid/Basic.lean [hunk 15]
```diff
@@ -0,0 +1,147 @@
...
+namespace PresentedMonoid
+
+open Set Submonoid
+
+
+/-- The quotient map from the free monoid on `α` to the presented monoid with the same generators
+and the given relations `rels`. -/
+@[to_additive "The quotient map from the free additive monoid on `α` to the presented additive
+monoid with the same generators and the given relations `rels`"]
+def mk (rels : FreeMonoid α → FreeMonoid α → Prop) (a : FreeMonoid α) : PresentedMonoid rels :=
```
Comment (erdOne) [inline Mathlib/Algebra/PresentedMonoid/Basic.lean:48]: If you move the monoid instance on `PresentedMonoid` before this, this can be a monoid hom instead.

File: Mathlib/Algebra/PresentedMonoid/Basic.lean (hunk 10 above)
Comment (erdOne) [reply Mathlib/Algebra/PresentedMonoid/Basic.lean]: I think `lift` makes more sense here (or even `desc`).

Comment (hannahfechtner) [reply Mathlib/Algebra/PresentedMonoid/Basic.lean]: done!

File: Mathlib/Algebra/PresentedMonoid/Basic.lean (hunk 14 above)
Comment (hannahfechtner) [reply Mathlib/Algebra/PresentedMonoid/Basic.lean]: fixed!

File: Mathlib/Algebra/PresentedMonoid/Basic.lean (hunk 15 above)
Comment (hannahfechtner) [reply Mathlib/Algebra/PresentedMonoid/Basic.lean]: done :)

File: Mathlib/GroupTheory/Congruence/Basic.lean
Comment (hannahfechtner) [reply Mathlib/GroupTheory/Congruence/Basic.lean:1]: this is now PR#17195

File: Mathlib/Algebra/PresentedMonoid/Basic.lean [hunk 16]
```diff
@@ -0,0 +1,141 @@
...
+
+/-!
+# Defining a monoid given by generators and relations
+
+Given a subset `rels` of relations of the free monoid on a type `α`, this file constructs the monoid
+given by generators `x : α` and relations `r ∈ rels`.
+
+## Main definitions
+
+* `PresentedMonoid rels`: the quot group of the free group on a type `α` by the steps-to closure
```
Comment (erdOne) [inline Mathlib/Algebra/PresentedMonoid/Basic.lean:19]: Is "steps-to" closure a standard terminology? I've never heard of it.

File: Mathlib/Algebra/PresentedMonoid/Basic.lean [hunk 17]
```diff
@@ -0,0 +1,141 @@
...
+  of a subset `rels` of relations of the free monoid on `α`.
+* `of`: The canonical map from `α` to a presented monoid with generators `α`.
```
Comment (erdOne) [inline Mathlib/Algebra/PresentedMonoid/Basic.lean:21]:
```suggestion
* `PresentedMonoid.of`: The canonical map from `α` to a presented monoid with generators `α`.
```

File: Mathlib/Algebra/PresentedMonoid/Basic.lean [hunk 18]
```diff
@@ -0,0 +1,141 @@
...
+* `toMonoid f`: the canonical monoid homomorphism `PresentedMonoid rels → M`, given a function
```
Comment (erdOne) [inline Mathlib/Algebra/PresentedMonoid/Basic.lean:22]:
```suggestion
* `PresentedMonoid.lift f`: the canonical monoid homomorphism `PresentedMonoid rels → M`, given a function
```

File: Mathlib/Algebra/PresentedMonoid/Basic.lean [hunk 19]
```diff
@@ -0,0 +1,141 @@
...
+/-- `of` is the canonical map from `α` to a presented monoid with generators `x : α`. The term `x`
+is mapped to the equivalence class of the image of `x` in `FreeMonoid α`. -/
+@[to_additive "`of` is the canonical map from `α` to a presented additive monoid with generators
+`x : α`. The term `x` is mapped to the equivalence class of the image of `x` in `FreeAddMonoid α`"]
+def of (rels : FreeMonoid α → FreeMonoid α → Prop) (x : α) : PresentedMonoid rels :=
+  mk rels (.of x)
+
+section inductionOn
+
+variable {α₁ α₂ α₃ : Type* } {rels₁ : FreeMonoid α₁ → FreeMonoid α₁ → Prop}
```
Comment (erdOne) [inline Mathlib/Algebra/PresentedMonoid/Basic.lean:66]:
```suggestion
variable {α₁ α₂ α₃ : Type*} {rels₁ : FreeMonoid α₁ → FreeMonoid α₁ → Prop}
```

File: Mathlib/Algebra/PresentedMonoid/Basic.lean [hunk 20]
```diff
@@ -0,0 +1,141 @@
...
+  Quotient.inductionOn₃ q₁ q₂ q₃ h
+
+end inductionOn
+
+variable {α : Type*} {rels : FreeMonoid α → FreeMonoid α → Prop}
+
+/-- The generators of a presented monoid generate the presented monoid. That is, the submonoid
+closure of the set of generators equals `⊤`. -/
+@[to_additive (attr := simp) "The generators of a presented additive monoid generate the presented
+additive monoid. That is, the submonoid closure of the set of generators equals `⊤`"]
```
Comment (erdOne) [inline Mathlib/Algebra/PresentedMonoid/Basic.lean:95]:
```suggestion
additive monoid. That is, the additive submonoid closure of the set of generators equals `⊤`"]
```

File: Mathlib/Algebra/PresentedMonoid/Basic.lean (hunk 16 above)
Comment (hannahfechtner) [reply Mathlib/Algebra/PresentedMonoid/Basic.lean]: Oy, it is not! I went back to some textbooks, and it looks like the proper term is "one-step reduction"

I've updated the definitions (thanks to your comment, I realized I had other errors too!), though it feels clunky. I'm not sure how to best describe `rels`. It's not a set - can I just call it a relation? Or is it a function? Any advice would be much appreciated!

(I may also have better ideas in the morning)

File: Mathlib/Algebra/PresentedMonoid/Basic.lean [hunk 21]
```diff
@@ -0,0 +1,141 @@
...
+  Con.lift _ (FreeMonoid.lift f) (Con.conGen_le h)
+
+@[to_additive]
+theorem toMonoid.unique (g : MonoidHom (conGen rels).Quotient M)
+    (hg : ∀ a : α, g (of rels a) = f a) : g = lift f h :=
+  Con.lift_unique (Con.conGen_le h) g (FreeMonoid.hom_eq fun x ↦ let_fun this := hg x; this)
+
+@[to_additive (attr := simp)]
+theorem lift_of {x : α} : lift f h (of rels x) =
+    f x := rfl
```
Comment (erdOne) [inline Mathlib/Algebra/PresentedMonoid/Basic.lean:127]:
```suggestion
theorem lift_of {x : α} : lift f h (of rels x) = f x := rfl
```

File: Mathlib/Algebra/PresentedMonoid/Basic.lean [hunk 22]
```diff
@@ -0,0 +1,141 @@
...
+
+@[to_additive]
+instance {rels : FreeMonoid α → FreeMonoid α → Prop} : Monoid (PresentedMonoid rels) :=
+  Con.monoid (conGen rels)
+
+/-- The quotient map from the free monoid on `α` to the presented monoid with the same generators
+and the given relations `rels`. -/
+@[to_additive "The quotient map from the free additive monoid on `α` to the presented additive
+monoid with the same generators and the given relations `rels`"]
+def mk (rels : FreeMonoid α → FreeMonoid α → Prop) : FreeMonoid α →* PresentedMonoid rels where
```
Comment (erdOne) [inline Mathlib/Algebra/PresentedMonoid/Basic.lean:52]: I think `surjective_mk` would be useful too.

**Review by erdOne — APPROVED** [review]
LGTM modulo minor comments

File: Mathlib/Algebra/PresentedMonoid/Basic.lean (hunk 22 above)
Comment (hannahfechtner) [reply Mathlib/Algebra/PresentedMonoid/Basic.lean:52]: added! it's a bit below, because the proof uses PresentedMonoid.inductionOn

**Comment by erdOne** [comment]
LGTM Thanks!
maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

**Review by Vierkantor — APPROVED** [review]
Thanks!

bors r+

**Comment by Vierkantor** [comment]
Oops, I could swear I reloaded this page before `bors`ing. Anyway, I'll give this a

bors d+

in case the build ends up failing.
